US07935699B2
3-[2(R)-(3-Chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazole-1-carboxylic acid tert-butyl ester (1.72 g, 3.47 mmol) was dissolved in methylene chloride (12 mL) and trifluoroacetic acid (4 mL) was added. The solution was stirred at 25° C. for 4 h. The mixture was concentrated in vacuo and the resulting oil was dissolved in ethyl acetate (25 mL), washed with saturated aqueous sodium bicarbonate solution (2×15 mL), saturated aqueous brine solution (2×15 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to produce a yellow oil. Purification by ISCO flash column chromatography (Teledyne Isco RediSep Flash Column 120 g; 5% ethyl acetate/hexanes to 75% ethyl acetate/hexanes) afforded 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-(1H-pyrazol-3-yl)-propionamide as a white foam (802 mg, 58%) ESI-LRMS m/e calcd for C18H22ClN3O3S [M+] 395.1, found 396.0 [M+H+]; 1H NMR (400 MHz, CDCl3) δ ppm 1.00-1.19 (m, 2H, CH2), 1.34-1.91 (m, 8H, 4×CH2), 2.08-2.29 (m, 1H, CH), 3.24 (s, 3H, SO2CH3), 3.65 (t, J=7.6 Hz, 1 H, CH), 6.54 (d, 1H, J=1.7, Ar), 7.39 (m, 2H, Ar), 7.54 (d, Jm=1.3 Hz, 1H, Ar), 7.94 (d, Jo=8.2 Hz, 1H, Ar), 9.26 (s, 1H, NH).

reactant | 3-[2(R)-(3-Chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazole-1-carboxylic acid tert-butyl ester | 3.47 mmol, 1.72 g | C(C)(C)(C)OC(=O)N1N=C(C=C1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C23H30ClN3O5S
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 12 mL | C(Cl)Cl | CH2Cl2
product | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-(1H-pyrazol-3-yl)-propionamide | 802 mg, 58% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NNC=C1)CC1CCCC1 | C18H22ClN3O3S
